US09446130B2
The reaction mixture of 4-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (580 mg, 1.6 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (2 mmol), Pd(dppf)Cl2 (80 mg) and K2CO3 (830 mg, 6 mmol) in a mixed solvent of dioxane (15 mL) and H2O (2 mL) was stirred at 110° C. for 1.5 hrs under N2 protection. After cooling, the resulting mixture was filtered and the filtrate was evaporated under reduce pressure to dryness. The residue was purified by preparative TLC to afford 4-(8-amino-3-(4-hydroxy-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide.

reactant | 4-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 1.6 mmol, 580 mg | NC=1C=2N(C=CN1)C(=NC2Br)C2(C=1C=NN(C1CCC2)C)O | C14H15BrN6O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 2 mmol | CC1(OB(OC1(C)C)C1=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C1)C | C19H20BF3N2O3
reactant | K2CO3 | 6 mmol, 830 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 80 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 2 mL | O | H2O
product | 4-(8-amino-3-(4-hydroxy-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC(=C1)C(F)(F)F)C=C2)C2(C=1C=NN(C1CCC2)C)O | C27H23F3N8O2
